US07342118B2
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(1-ethyl-Propyl)-1H-imidazol-4-yl]-amide
2-Amino-pentanoic acid [1-(1-ethyl-propyl)-1H-imidazol-4-yl]-amide was coupled with (3,5-Difluoro-phenyl)-acetic acid to provide the title compound: C13 NMR (100 MHz, CDCl3) 10.7, 10.8, 13.9, 18.9, 28.8, 36.1, 43.0, 53.0, 62.9, 102.5, 102.7, 103.3, 104.5, 112.3, 112.4, 112.5, 112.6, 132.9, 138.0, 138.9, 161.9, 164.3, 164.5, 169.2, 169.5; MS 407.23 m/z (M+1).

reactant | 2-Amino-pentanoic acid [1-(1-ethyl-propyl)-1H-imidazol-4-yl]-amide | C(C)C(CC)N1C=NC(=C1)NC(C(CCC)N)=O | C13H24N4O
reactant | (3,5-Difluoro-phenyl)-acetic acid | FC=1C=C(C=C(C1)F)CC(=O)O | C8H6F2O2
product | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(1-ethyl-Propyl)-1H-imidazol-4-yl]-amide | C(C)C(CC)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C21H28F2N4O2
